US08212045B2
To a solution of pyridine-2-thiol (2.5 g, 23 mmol) in DMA (25 mL) cooled to 0° C. was added NaH (0.90 g, 23 mmol) and the reaction stirred at ambient temperature for 20 min, followed by addition of the 5-bromo-3-(4-fluorophenoxy)picolinonitrile (6.6 g, 23 mmol) and stirring over night at ambient temperature. The reaction was poured into water (250 mL) and a solid formed. The solid was collected, washed with water, and dried in vacuo to yield 3-(4-fluorophenoxy)-5-(pyridin-2-ylthio)picolinonitrile (5 g, 16 mmol, 70%).

reactant | pyridine-2-thiol | 23 mmol, 2.5 g | N1=C(C=CC=C1)S | C5H5NS
reactant | NaH | 23 mmol, 0.90 g | [H-].[Na+]
reactant | 5-bromo-3-(4-fluorophenoxy)picolinonitrile | 23 mmol, 6.6 g | BrC=1C=C(C(=NC1)C#N)OC1=CC=C(C=C1)F | C12H6BrFN2O
reactant | water | 250 mL | O | H2O
solvent | DMA | 25 mL | CC(=O)N(C)C | C4H9NO
product | 3-(4-fluorophenoxy)-5-(pyridin-2-ylthio)picolinonitrile | 16 mmol, 5 g, 70% | FC1=CC=C(OC=2C(=NC=C(C2)SC2=NC=CC=C2)C#N)C=C1 | C17H10FN3OS
